US07902367B2
Step 3a) 1-(tert-Butoxycarbonyl)-N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide
2-(4-Chlorophenyl)-4-methylthiazol-5-yl methylamine (477 mg, 2.00 mmol), 1-tert-butoxycarbonyl nipecotic acid (459 mg, 2.00 mmol) and 1-hydroxybenzotriazole monohydrate (368 mg, 2.40 mmol) were dissolved in N,N-dimethylformamide (10 mL). While this mixture was chilled in an ice bath, 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (460 mg, 2.40 mmol) and N-methylmorpholine (0.484 mL, 4.40 mmol) were added. The mixture was then stirred at room temperature for 6 hours. Subsequently, 5% aqueous citric acid was added and the mixture was extracted with ethyl acetate. The extract washed sequentially with a saturated aqueous sodium bicarbonate solution and brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=5:1->1:1) gave 916 mg (100%) of the desired compound as a colorless powder.

reactant | 2-(4-Chlorophenyl)-4-methylthiazol-5-yl methylamine | 2.00 mmol, 477 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)NC | C11H11ClN2S
reactant | 1-tert-butoxycarbonyl nipecotic acid | 2.00 mmol, 459 mg | C(C)(C)(C)OC(=O)N1CC(C(=O)O)CCC1 | C11H19NO4
reactant | 1-hydroxybenzotriazole monohydrate | 2.40 mmol, 368 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 2.40 mmol, 460 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 4.40 mmol, 0.484 mL | CN1CCOCC1 | C5H11NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide | 916 mg, 100% | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)NCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C22H28ClN3O3S
